US05506191
c) Preparation of 2-vinylnicotinic acid ethyl ester
3.45 g of 2-ethynylnicotinic acid ethyl ester are dissolved in 100 ml of ethyl acetate, 1 g of Lindlar catalyst (5% Pd/CaCO3 lead poisoned) added and stirred under H2 (1 atm) until H2 absorption ceases. The reaction mixture is filtered through celite and the solvent removed by evaporation to yield the title compound as an oil.

reactant | 2-ethynylnicotinic acid ethyl ester | 3.45 g | C(C)OC(C1=C(N=CC=C1)C#C)=O | C10H9NO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Lindlar catalyst | 1 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 2-vinylnicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)C=C)=O | C10H11NO2
